US06492416B1
200 mg of 5-{4-(aminosulfonyl)phenyl}-2,2-dimethyl-4-iodo-3(2H)-furanone was coupled with 99 mg of benzo[b]furan-2-boronic acid by following a procedure similar to Step 4 of Example 22 to give 45 mg of 5-{4-(aminosulfonyl)phenyl}-4-(2-benzo[b]furanyl)-2,2-dimethyl-3(2H)-furanone as a solid. mp: 143-145° C. NMR: δ1.60 (s, 6H), 4.92 (br s, 2H), 7.23 (m, 3H), 7.72 (m, 2H), 8.02 (m, 4H), IR (cm−1): 3384, 3245, 1698, 1510, 1253, 1161, 793.

reactant | 5-{4-(aminosulfonyl)phenyl}-2,2-dimethyl-4-iodo-3(2H)-furanone | 200 mg | NS(=O)(=O)C1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)I | C12H12INO4S
reactant | benzo[b]furan-2-boronic acid | 99 mg | O1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO3
product | 5-{4-(aminosulfonyl)phenyl}-4-(2-benzo[b]furanyl)-2,2-dimethyl-3(2H)-furanone | 45 mg | NS(=O)(=O)C1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC2=C(O1)C=CC=C2 | C20H17NO5S
